US06825191B2
Step 2: Synthesis of ethyl [(2-amino-5-chlorobenzyl)-(4-chlorobenzoyl)amino]acetate
1.15 g (4.2 mmol) of ethyl (5-chloro-2-nitrobenzyl)aminoacetate was dissolved in 20 ml of dichloromethane. 0.64 ml (5.1 mmol) of 4-chlorobenzoyl chloride and 0.88 ml (6.3 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of ethyl acetate. 120 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 4 hours. The reaction solution was filtered through Celite. The solvent was evaporated and the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl (5-chloro-2-nitrobenzyl)aminoacetate | 4.2 mmol, 1.15 g | ClC=1C=CC(=C(CNCC(=O)OCC)C1)[N+](=O)[O-] | C11H13ClN2O4
reactant | 4-chlorobenzoyl chloride | 5.1 mmol, 0.64 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 6.3 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 120 mg | [Pd] | Pd
product | ethyl [(2-amino-5-chlorobenzyl)-(4-chlorobenzoyl)amino]acetate | NC1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C=C(C=C1)Cl | C18H18Cl2N2O3
